US07511066B2
A. Methyl 4-(tert-Butyl)-2-(1-Boc-piperidin-4-yloxy)-benzoate
To a stirring solution of methyl 4-tert-butyl-2-hydroxybenzoate (9.45 g, 45.4 mmol), 1-Boc-piperidin-4-ol (9.6 g, 47.7 mmol) and triphenylphosphine (12.5 g, 47.7 mmol) in THF (125 mL) was added, dropwise via an addition funnel, a solution of diisopropyl azodicarboxylate (9.4 mL, 47.7 mmol) in THF (25 mL). After 72 h, the solvent was removed in vacuo and the residue was dissolved in a minimal amount of chloroform and vacuum filtered through a pad of silica gel, eluting with a solution of 20% ethyl acetate in hexanes. The filtrate was then concentrated in vacuo and the residue was chromatographed over silica gel, eluting with a gradient of 5% ethyl acetate in hexanes through 20% ethyl acetate in hexanes. The product containing fractions were combined and concentrated in vacuo to give the ether (12.9 g, 73%) as a thick colorless oil.

reactant | methyl 4-tert-butyl-2-hydroxybenzoate | 45.4 mmol, 9.45 g | C(C)(C)(C)C1=CC(=C(C(=O)OC)C=C1)O | C12H16O3
reactant | 1-Boc-piperidin-4-ol | 47.7 mmol, 9.6 g | C(=O)(OC(C)(C)C)N1CCC(CC1)O | C10H19NO3
reactant | triphenylphosphine | 47.7 mmol, 12.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 47.7 mmol, 9.4 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 125 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | Methyl 4-(tert-Butyl)-2-(1-Boc-piperidin-4-yloxy)-benzoate | C(C)(C)(C)C1=CC(=C(C(=O)OC)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C22H33NO5
